### PR TITLE
feat(Analysis/Convex): `egauge` of a seminorm balls

### PR DESCRIPTION
**Pull request by mcdoll**
Prove relations between the seminorm and the `egauge` of the (closed) ball.

This is a step to calculate derivatives of functions with codomain in locally convex spaces.

Co-authored-by: Anatole Dedecker <anatolededecker@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 1]
```diff
@@ -308,18 +308,71 @@ theorem egauge_pi [(𝓝[≠] (0 : 𝕜)).NeBot] {I : Set ι} {U : ∀ i, Set (E
...
+  rintro c ⟨y, hy, rfl⟩
+  calc
+    _ = ‖c‖ₑ * (p y).toNNReal / r := by
+      simp [map_smul_eq_mul, Real.toNNReal_mul, enorm_eq_nnnorm]
+    _ ≤ _ := by
+      apply ENNReal.div_le_of_le_mul
+      gcongr
+      simpa [Real.toNNReal_le_iff_le_coe] using hy
+
+lemma le_egauge_closedBall_one (x : E) : (p x).toNNReal ≤ egauge 𝕜 (p.closedBall 0 1) x := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/EGauge.lean:327]: I think `unitClosedBall` is more appropriate here than `closedBall_one` (and same with `ball_one` below)

Comment (mcdoll) [reply Mathlib/Analysis/Convex/EGauge.lean]: I didn't know that that was a thing. Thanks for pointing it out!

**Comment by sgouezel** [comment]
bors r+
Thanks!
